US05317018
6-(2-Bromophenyl)-N-ethyl-8-fluoro-4H-imidazo[1,5-a][1,4]-benzodiazepine-3-carboxamide
A mixture of 0.4 g (1 mmol) of 6-(2-bromophenyl)-8-fluoro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid, 50 mL of methylene chloride and 0.3 g (1.44 mmol) of phosphorus pentachloride was stirred at room temperature for 2.5 hours. Ethylamine was introduced until the reaction mixture was basic. It was layered with 10% aqueous sodium carbonate solution and the two phases were stirred for 15 minutes The organic layer was separated, dried and evaporated. The residue was crystallized from ethyl acetate/hexane to yield 0.37 g of product having the above formula. For analysis it was recrystallized from ethanol to leave colorless crystals with m.p. 218°-220° C.

reactant | 6-(2-bromophenyl)-8-fluoro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid | 1 mmol, 0.4 g | BrC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)F)C=NC2C(=O)O | C18H11BrFN3O2
reactant | phosphorus pentachloride | 1.44 mmol, 0.3 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | Ethylamine | C(C)N | C2H7N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 6-(2-Bromophenyl)-N-ethyl-8-fluoro-4H-imidazo[1,5-a][1,4]-benzodiazepine-3-carboxamide | 0.37 g | BrC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)F)C=NC2C(=O)NCC | C20H16BrFN4O
